* Sky130 rail-to-rail input, class-AB output operational amplifier.
* Complementary lvt input pairs with 1:1 tail-steering gm control,
* folded-cascode summing stage, Monticelli floating class-AB bias,
* common-source rail-to-rail output stage. Single 20 uA external reference.
.subckt complementary_folded_cascode_ab_opamp vss iref vdd vinn vinp vout

* W is total drawn channel width. nf partitions devices into no more than
* approximately 8 um per finger for layout-plausible gate resistance and
* diffusion geometry without changing the intended total channel width.

* ---- bias core: iref is the NMOS mirror rail ----
XMN1    iref iref vss vss sky130_fd_pr__nfet_01v8 l=1 w=16 nf=2
XMN2    vbpd iref vss vss sky130_fd_pr__nfet_01v8 l=1 w=16 nf=2
XMP1    vbpd vbpd vdd vdd sky130_fd_pr__pfet_01v8 l=1 w=48 nf=6

* cascode gate bias generators
XMP2    vcn  vbpd vdd vdd sky130_fd_pr__pfet_01v8 l=1 w=48 nf=6
XMN3    vcn  vcn  vss vss sky130_fd_pr__nfet_01v8 l=2 w=4 nf=1
XMN4    vcp  iref vss vss sky130_fd_pr__nfet_01v8 l=1 w=16 nf=2
XMP3    vcp  vcp  vdd vdd sky130_fd_pr__pfet_01v8 l=2 w=10 nf=2

* gm-control reference levels
XMP4    vrefn vbpd vdd vdd sky130_fd_pr__pfet_01v8 l=1 w=24 nf=3
XMN5    vrefn vrefn vss vss sky130_fd_pr__nfet_01v8_lvt l=1 w=3 nf=1
XMN6    vrefp iref vss vss sky130_fd_pr__nfet_01v8 l=1 w=8 nf=1
XBIAS_P0 vrefp vrefp vdd vdd sky130_fd_pr__pfet_01v8_lvt l=1 w=8 nf=1

* ---- complementary input pairs with tail steering ----
* A long LVT tail device and modest source degeneration balance integrated
* input noise against complementary-pair hand-off linearity.
XMN7    ntail iref vss vss sky130_fd_pr__nfet_01v8_lvt l=20 w=88 nf=11
XMN8    fp1 vinn ntail_n vss sky130_fd_pr__nfet_01v8_lvt l=1 w=512 nf=64
XMN9    fp2 vinp ntail_p vss sky130_fd_pr__nfet_01v8_lvt l=1 w=512 nf=64
RN8     ntail_n ntail 500
RN9     ntail_p ntail 500
XMP5    ptail vbpd vdd vdd sky130_fd_pr__pfet_01v8 l=20 w=480 nf=60
XMP6    fn1 vinn ptail_n ptail sky130_fd_pr__pfet_01v8_lvt l=2 w=512 nf=64
XMP7    fn2 vinp ptail_p ptail sky130_fd_pr__pfet_01v8_lvt l=2 w=512 nf=64
RP6     ptail ptail_n 300
RP7     ptail ptail_p 300

* current switches divert unused tail current to the opposite pair
XMN10   swnd vrefn ntail vss sky130_fd_pr__nfet_01v8_lvt l=1 w=128 nf=16
XMP8    swnd swnd vdd vdd sky130_fd_pr__pfet_01v8 l=1 w=48 nf=6
* A 1.5x steering mirror supplies the slow-P input path at low common mode
* without increasing the mid-supply overlap current.
XMP9    ptail swnd vdd vdd sky130_fd_pr__pfet_01v8 l=1 w=72 nf=9
XMP10   swpd vrefp ptail ptail sky130_fd_pr__pfet_01v8_lvt l=2 w=256 nf=32
XMN11   swpd swpd vss vss sky130_fd_pr__nfet_01v8 l=1 w=16 nf=2
XMN12   ntail swpd vss vss sky130_fd_pr__nfet_01v8 l=1 w=16 nf=2

* ---- folded-cascode summing stage ----
* fold-sink bias rail tracks the steered tail currents so that the
* cascode branch current stays constant over the input common-mode range
XMP11   vbsink vbpd vdd vdd sky130_fd_pr__pfet_01v8 l=1 w=120 nf=15
XMP12   vbsink swnd vdd vdd sky130_fd_pr__pfet_01v8 l=1 w=48 nf=6
XMN13   vbsink swpd vss vss sky130_fd_pr__nfet_01v8 l=1 w=8 nf=1
XMN14   vbsink vbsink vss vss sky130_fd_pr__nfet_01v8 l=1 w=40 nf=5
* bottom current sinks
XMN15   fn1 vbsink vss vss sky130_fd_pr__nfet_01v8 l=1 w=40 nf=5
XMN16   fn2 vbsink vss vss sky130_fd_pr__nfet_01v8 l=1 w=40 nf=5
* NMOS cascodes
XBIAS_N1 ml  vcn fn1 vss sky130_fd_pr__nfet_01v8 l=4 w=64 nf=8
XBIAS_N2 gn  vcn fn2 vss sky130_fd_pr__nfet_01v8 l=4 w=64 nf=8
* top cascoded mirror
XMP13   fp1 ml vdd vdd sky130_fd_pr__pfet_01v8 l=4 w=480 nf=60
XMP14   fp2 ml vdd vdd sky130_fd_pr__pfet_01v8 l=4 w=480 nf=60
XMP15   ml  vcp fp1 vdd sky130_fd_pr__pfet_01v8 l=6 w=240 nf=30
XMP16   gp  vcp fp2 vdd sky130_fd_pr__pfet_01v8 l=6 w=240 nf=30

* ---- Monticelli floating class-AB control ----
* The reduced translinear control pair damps the otherwise hidden large-signal
* relaxation mode while retaining push-pull output drive.
XBIAS_N3 gp vabn gn vss sky130_fd_pr__nfet_01v8 l=8 w=64 nf=8
XMP17   gn vabp gp vdd sky130_fd_pr__pfet_01v8_lvt l=8 w=128 nf=16
* translinear bias stacks
XMP18   vabn vbpd vdd vdd sky130_fd_pr__pfet_01v8 l=1 w=48 nf=6
XLN1   vabn vabn x1 vss sky130_fd_pr__nfet_01v8 l=0.5 w=16 nf=2
XLN2   x1 x1 vss vss sky130_fd_pr__nfet_01v8 l=0.5 w=8 nf=2
XBIAS_N4 vabp iref vss vss sky130_fd_pr__nfet_01v8 l=1 w=16 nf=2
XBIAS_P1 vabp vabp y1 vdd sky130_fd_pr__pfet_01v8_lvt l=0.5 w=32 nf=4
XBIAS_P2 y1 y1 vdd vdd sky130_fd_pr__pfet_01v8_lvt l=0.5 w=24 nf=4

* Symmetric local gate damping suppresses the hidden large-signal class-AB
* relaxation mode without altering the DC output drive.
CGP gp vdd 0.5p
CGN gn vss 0.5p

* ---- class-AB rail-to-rail output stage ----
XMP19   vout gp vdd vdd sky130_fd_pr__pfet_01v8_lvt l=3 w=216 nf=27
XMN17   vout gn vss vss sky130_fd_pr__nfet_01v8 l=3 w=512 nf=64

* Symmetric RC bootstrapping makes the NMOS tail follow input common-mode at
* high frequency. Differential components cancel at ntail, preserving gain.
RCM1 vinn cmin 15k
CCM1 cmin ntail 4p
RCM2 vinp cmip 15k
CCM2 cmip ntail 4p

* Two series-RC Miller compensation paths, as in the reference schematic.
CMP vout cmp_p 6p
RCP cmp_p fp2 5k
CMN vout cmp_n 6p
RCN cmp_n fn2 5k
.ends complementary_folded_cascode_ab_opamp
